Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I wanted to commit suicide."

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ yo M ___ student presenting from student
counseling services with worsening depression and SI.  The
patient notes feeling depressed, lonely and isolated for about 3
months.  He has decreased appetite, decreased sleep, decreased
interests (decreased artwork, overwhelmed with school).  He has
decreased energy, no increased feelings of guilt, feelings of
hopelessness (improved now). He had been feeling suicidal for 5
hours after learning he failed yesterday evening with thoughts 
of
"who had the right to bring me into this world", and wanting to
jump off of a bridge and drown.  His intent was to die.  He had
started wellbutrin 1 week ago.  
     ED Psychiatry team spoke with ___, counselor at
___ noted patient had increased SI over a
week, previously with plan and no intent.  He found out last
night that he failed most of his courses, and walked toward
___ with plan to jump off, calling relatives to say goodbye
without saying specifics.  He changed his mind before going
through with this.  He was convinced to come into hospital with
counselor, no section required.   
     On interview, the patient corroborated the above depressive
symptoms.  He notes he is here because of "attempted suicide"
after GPA fell apart.  He found out ___ classes were failed
yesterday at ___ as ___ student.  After learning he
failed, he was became more suicidal for 5 hours, at midnight
walked toward a bridge, almost going through with jumping but
stopping beforehand.  He denies having suicidal thoughts before
yesterday to this examiner.  He reports that he called his 
cousin
and friend whom he loves, said he loved them and that he was
feeling "down".  He was thinking about saying "F you" to his
extended family.  He wrote a note that he was "worthless and a
nuisance", left in his room in his apartment.  He states he is
tired of living up to expectations with family, tired of how
extended family categorizes him as "black sheep" because of
playing video games and not doing as well in school.  He 
believes
he is not currently concerned with going through with jumping 
off
bridge if not in the hospital.  He states he does not currently
wish to kill himself while on psychiatry floor.  He says his 
mood
is "hungry/thirsty", later states is feeling more sad.  He says
he felt so overwhelmed that he had to make a choice to either
ending his life or joining the military, as a means to
"disappear".  
     The patient denies AVH, denies paranoia, and denies HI. 
Patient denies symptoms of mania such as elevated mood, 
decreased
need for sleep, racing thoughts, increased talkativeness,
increased risky and ___ behaviors. 

___, psychologist at ___ counseling services:
Referral call to ___ is a client at ___ for ___. He came
into the ___ this morning and reported that after failing all
but one class this semester he decided to commit suicide by
jumping off of the ___ Bridge. He walked halfway to the bridge
from his apartment and "changed his mind". He reported he did 
not
kill himself "yet" because he did "not have a chance to tell my
extended family to ___ lives in ___ and has no
providers at home. He started Wellbutrin last week (___
health services ___ nurse practitioner - student has medication
with him).  ___ has a history of anxiety that is most acute
presently. He will most likely need to take a leave from school
and his parents are a major trigger for thoughts of suicide. He
has not talked to his  parents and does not want to. Myself and
the prescriber working with  ___ are very concerned about his
safety."   

ED Course: There were no acute medical or behavioral events in
the ED.

 
Past Medical History:
Past psychiatric history: Reviewed and updated as needed from
initial psychiatry consult note by Dr. ___ from
earlier today:  
"Hospitalizations: none
Current treaters and treatment: counseling services at ___
Medication and ECT trials: started buproprion 1 weeks ago
___: denies
Harm to others: denies
Access to weapons: denies"

 
Social History:
___
Family History:
Family psychiatric history: Denies

 
Physical Exam:
Medical ROS: 12 pt ROS negative except for: chronic, untreated
but currently ___ back pain.

Data reviewed:
Labs:
 ___: Na: 140
 ___: K: 4.1
 ___: Cl: 103
 ___: CO2: 24
 ___: BUN: 23*
 ___: Creat: 1.2
 ___: Glucose: 92

___: WBC: 6.4
 ___: HGB: 14.6
 ___: HCT: 44.5
 ___: Plt Count: 203

 ___: Urine Glucose (Hem): NEG
 ___: Urine Protein (Hem): 100
 ___: Urine Bilirubin (Hem): NEG
 ___: Urobilinogen: 2*
 ___: Urine Ketone (Hem): NEG
 ___: Urine Blood (Hem): NEG
 ___: Urine Nitrite (Hem): NEG
 ___: Urine Leuks (Hem): NEG
Urine RBC 3, urine mucous: many
 
Serum toxicology: negative
 Urine toxicology: negative

Other results: none
 Releases obtained/outside records reviewed: none

Admission Physical Examination:
VS:  T 98.7, P 73, BP 143/86, O2 Sat 100% RA 
Gen: NAD, thin, sitting comfortably.
HEENT: PERRLA, EOMI, MMM, no carotid bruits, no JVD
Ht: RRR, no MRG
Lungs: CTAB, symmetric chest wall motion, no increased work of
breathing
Abd: Soft, scaphoid, nontender, nondistended
Ext: No leg tenderness, edema or erythema bilaterally, 2+
bilateral ___ pulses
Neuro-
Cranial ___ intact.  
Motor:
Moving all extremities, ___ proximal and distal bilateral arm 
and
leg strength
2+ biceps and patellar reflexes bilaterally

Sensation: Normal light touch sensation of proximal and distal
extremities bilaterally
Coordination:
     ___: intact
     Fine finger tapping: intact
     Heel to shin: intact
Gait/Romberg: Normal
Neurological:
    *station and gait: WNL  
    *tone and strength: Moving all extremities.
    cranial nerves: CN ___ intact
    abnormal movements: No tremors, tics or dyskinesias, no
psychomotor agitation or retardation.
    frontal release: None 

  *Appearance: Patient is a young, thin Asian gentleman who
appears stated age, hygiene and grooming is good, found in
hospital gown.  
  Behavior: Patient able to have calm and cooperative
conversation with examiner.  He has serious and somber
manneurisms.  
  *Mood and Affect: stated mood is "tired, hungry, and thirsty,
still sad"; appears generally quite somber, with intermittent
superficial brightening, mood congruent, not labile, 
appropriate.
  *Thought process: Linear, logical, ___.  No LOA.  
  *Thought Content: Denies current SI, but had suicidal thoughts
earlier today, at midnight this morning was walking in direction
of a bridge with intent and plan to jump off, but changed his
mind before going through with it.  Denies HI. Denies AH or VH. 
Denies paranoia.  
  *Judgment and Insight: ___ went to jump off
bridge, stopped at last second, knows he needs help
    Cognition:
    *Attention, *orientation, and executive function: A and Ox3,
attends to interview, MOYB x 12.  
    *Memory: ___ registration, ___ recall
    *Fund of knowledge: Knows the president, ___ wrote
___,
    Abstraction: "apples/oranges"- fruits, "don't judge a book 
by
it's cover" means "know people's inside story"
    Calculation: $1.75 has 7 quarters
    
    *Speech: Regular rate, rhythm, tone, prosody and volume 
    *Language: Fluent ___

Discharge Physical Exam

     Exam:
 *VS: ___ RA

Neurological:
    *station and gait: WNL  
    *tone and strength: Moving all extremities.
    cranial nerves: CN ___ intact
    abnormal movements: No tremors, tics or dyskinesias, no
psychomotor agitation or retardation.
    frontal release: None 

  *Appearance: Patient is a young, thin Asian gentleman who
appears stated age, hygiene and grooming is good.  
  Behavior: Patient able to have calm and cooperative
conversation with examiner.  He has serious and somber
manneurisms.  
  *Mood and Affect: stated mood is "feeling better", mood 
congruent, not labile, appropriate.
  *Thought process: Linear, logical, ___.  No LOA.  
  *Thought Content: Denies current SI.  Denies HI. Denies AH or 
VH. 
Denies paranoia.  
  *Judgment and Insight: fair/fair

 
Pertinent Results:
___ 01:25PM   ___ 
___
___ 01:25PM   ___ 
___
___ 01:25PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 02:00PM URINE  ___ 
___
___ 01:25PM   PLT ___
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission and 

remained here on that level of observation throughout.  He was 
___.  There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:

___ Diagnosis: Unspecified depressive disorder
r/o adjustment disorder with depressed mood vs. MDD without
psychotic features 

# DEPRESSION
Mr. ___ presented on ___ with worsening depression and SI.  By 
history, he reported having depressed mood, anhedonia, decreased 
appetite, decreased sleep, decreased interests, decreased 
energy, no increased feelings of guilt, feelings of
hopelessness, and SI with recent intent and plan to jump off a 
bridge.  He walked toward bridge to jump, and changed his mind 
before going through with it.  The acute decompensation was 
triggered by recent news of failing multiple classes at ___ 
___,  and increasing sadness/frustration with 
his family's expectations for his future.   Diagnostically, he 
endorsed multiple depressive symptoms for 3 months, consistent 
with unspecified depressive disorder, with a differential 
diagnosis that includes first presentation of major depressive 
disorder, adjustment disorder with depressed mood (given the 
close relationship between his symptoms and difficulty in 
school), felt unlikely to be bipolar disorder om the absence 
manic symptoms.  The ___ attempt occurred context of 
starting new antidepressant.     Due to SI with plan and nearly 
jumping off bridge recently, he represented a serious threat of 
harm to himself, and met ___ criteria for inpatient 
hospitalization.   

While hospitalized we decreased wellbutrin from 300mg daily to 
150mg daily.  He denied worsening anxiety and so specific 
treatment for that (such as zoloft) was deferred (and he did not 
require prn treatment).  He responded well to team and group 
therapy sessions and by Day #2 of hospitalization, his mood had 
improved and suicidal ideation resolved (now says his depression 
is 0 on a scale of 0 to 10, mood is "solid, feeling pretty good 
actually").  He signed a ___ notice on ___ to be discharged, 
and by the expiration of that consent we agreed that he was 
appropriate for discharge.

We arranged for outpatient psychiatric follow up, coordinated a 
discharge plan with family, and spoke with his college to 
facilitate his expected semester leave.  ___ intends to 
use the semester off to pursue alternative courses in art, or 
perhaps studying more for his pharmacy classes to assist with a 
potential return to ___.  He will go home 
to ___ for the holiday break but will return to ___ in 
the new year and providers are arranged here.

GENERAL MEDICAL CONDITIONS:   No other active medical issues

PSYCHOSOCIAL: 

#) GROUPS/MILIEU: ___ participated in group therapy 
sessions during his time here and reported that it was helpful 
in establishing positive habits.   Staff noted that he was  able 
to respond to other patients and offer insight.  He was visible 
on the unit for much of his stay and interacted well with 
others. 
with peers, but this changed over time.  

#) COLLATERAL CONTACTS:  The team was in contact with the pt's 
sister and mother, who both provided  collateral information and 
helped in creating a ___ 
plan.  His sister will be flying back to ___ with him 
upon discharge.  He will be staying at home in ___ during 
the ___ holiday with plan to return to ___ in the new 
year.     

#INTERVENTIONS
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of,  and possible side effects and risks of 
starting this medication, and risks  and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
 take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

#RISK ASSESSMENT
Low imminent risk of harm/violence to self/others on discharge.

#) Modifiable Risk Factors:  The modifiable risk factors that 
were addressed on this admission include:  antidepressant 
recently started (1 week prior to admission) 
decreased social supports, lack of ___ treaters outside of 
school, failing
classes at school, interpersonal difficulties with family 
members, intense suicidal thoughts with potential plan

#) Protective Factors:
Protective factors include concerned school counseling services,
concerned family members, good reality testing, a desire to get
more help.  

SOCIAL WORK:
-We have arranged ___ psychiatric providers in ___ per 
discharge summary/instructions
-Social work has involved patient's mother and sister in 
coordination of discharge plan.
- Social work has communicated with Mass ___ to obtain 
paperwork for semester leave
  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Wellbutrin XL (buPROPion HCl) 300 mg oral DAILY 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 150 mg PO QAM 
RX *bupropion HCl 150 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
major depressive disorder
suicidal ideation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Discharge Physical Exam

     Exam:
 *VS: ___ RA

Neurological:
    *station and gait: WNL  
    *tone and strength: Moving all extremities.
    cranial nerves: CN ___ intact
    abnormal movements: No tremors, tics or dyskinesias, no
psychomotor agitation or retardation.
    frontal release: None 

  *Appearance: Patient is a young, thin Asian gentleman who
appears stated age, hygiene and grooming is good.  
  Behavior: Patient able to have calm and cooperative
conversation with examiner.  He has serious and somber
manneurisms.  
  *Mood and Affect: stated mood is 'feeling better', mood 
congruent, not labile, appropriate.
  *Thought process: Linear, logical, ___.  No LOA.  
  *Thought Content: Denies current SI.  Denies HI. Denies AH or 
VH. 
Denies paranoia.  
  *Judgment and Insight: fair/fair

 
Discharge Instructions:
You were hospitalized at ___ for worsening depression and 
suicidal ideation.  While you were here your mood improved and 
suicidal thoughts improved with therapy and medications 
adjustments--we decreased Wellbutrin to 150mg daily and added no 
other new medications.  We communicated with your ___ to 
facilitate your planned semester leave and helped to arrange 
outpatient psychiatry and therapy ___ in ___.  You are 
now ready for discharge and continued treatment in partial 
program.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___